US04921887
A stirred mixture of 4-chloromethyl-2-propionylaminothiazole (0.64 g), 4-(diphenylmethoxy)piperidine (0.8 g) and sodium bicarbonate (0.3 g) in N,N-dimethylformamide (8 ml) was heated at 80° to 90° C. for 2 hours. The reaction mixture was poured into ice water. The resulting precipitate was collected, washed with water and dried in vacuo. The precipitate was subjected to column chromatography on silica gel and eluted with a mixture of chloroform and methanol (10:1 V/V). The fractions containing the object compound were combined and concentrated under reduced pressure. The residue was triturated with diisopropyl ether to give white crystals. The crystals were recrystallized from a mixture of toluene and diisopropyl ether and dried under reduced pressure to give 2-propionylamino-4-[4-(diphenylmethoxy)piperidinomethyl]thiazole (0.35 g).

reactant | 4-chloromethyl-2-propionylaminothiazole | 0.64 g | ClCC=1N=C(SC1)NC(CC)=O | C7H9ClN2OS
reactant | 4-(diphenylmethoxy)piperidine | 0.8 g | C1(=CC=CC=C1)C(OC1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | sodium bicarbonate | 0.3 g | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 2-propionylamino-4-[4-(diphenylmethoxy)piperidinomethyl]thiazole | 0.35 g | C(CC)(=O)NC=1SC=C(N1)CN1CCC(CC1)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C25H29N3O2S
